US07696240B2
1-Benzofuran-3-ylmethyl-1H-indole-2-carboxylic acid
Using general procedure B, 1H-indole-2-carboxylic acid ethyl ester was coupled with 3-bromomethyl-benzofuran (Lit. 19) and the product obtained was hydrolyzed to give the title compound as a white solid. MS: 290.2 ([M−H]−).

reactant | 1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1 | C11H11NO2
reactant | 3-bromomethyl-benzofuran | BrCC1=COC2=C1C=CC=C2 | C9H7BrO
product | 1-Benzofuran-3-ylmethyl-1H-indole-2-carboxylic acid | O1C=C(C2=C1C=CC=C2)CN2C(=CC1=CC=CC=C21)C(=O)O | C18H13NO3
